US06893650B1
a) 2-Nitro-5-(3-trifluoromethylbenzylthio)-p-xylene
A mixture of 3-trifluoromethylbenzyl mercaptan (3.42 g), diisopropylethylamine (2.3 g) and 3-chloro-6-nitro-p-xylene (3.0 g) in dry N-methylpyrrolidinone (20 ml) was heated at 130° C. for 6 hours. On cooling, the mixture was poured into ice-water and the resulting mixture was filtered to give a solid which was washed with ice-water and then air dried. The solid was purified by silica gel chromatography eluting with light petroleum (60-80° C.)/ethyl acetate (9:1) to give the title product as a solid, m.p. 85-7° C.

reactant | 3-trifluoromethylbenzyl mercaptan | 3.42 g | FC(C=1C=C(CS)C=CC1)(F)F | C8H7F3S
reactant | diisopropylethylamine | 2.3 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-chloro-6-nitro-p-xylene | 3.0 g | ClC=1C=C(C(=CC1C)[N+](=O)[O-])C | C8H8ClNO2
solvent | N-methylpyrrolidinone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 2-Nitro-5-(3-trifluoromethylbenzylthio)-p-xylene | [N+](=O)([O-])C1=C(C=C(C(=C1)C)SCC1=CC(=CC=C1)C(F)(F)F)C | C16H14F3NO2S
